* source PRUEBA_PROJECT
R_R1         N14420 N14416  7.1k TC=0,0 
R_R2         0 N14454  5m TC=0,0 
V_V1         VCC 0 DC 3.3  
V_V2         0 VEE DC 3.3  
R_R3         N16620 N16616  330k TC=0,0 
R_R4         N16624 N16620  330k TC=0,0 
R_R5         N16628 N16624  330k TC=0,0 
R_R6         0 N16628  5.87k TC=0,0 
R_R9         N14454 N16616  12 TC=0,0 
V_V5         N16616 0  
+SIN 0 170 60 0 0 0
R_R11         AIN0N N21353  1k TC=0,0 
R_R10         AIN0P N21387  1k TC=0,0 
C_C5         AIN0N AIN0P  10nF  TC=0,0 
X_U3         N14454 0 VCC VEE N21387 N21353 N14416 N14420 INA333
X_U4         N31339 N21353 VCC VEE N21353 OPAX333
R_R12         VCC N31339  10k TC=0,0 
R_R13         N31339 0  10k TC=0,0 
X_U5         N35257 N34756 VCC VEE N34738 OPAX333
R_R19         N35257 N47022  10k TC=0,0 
R_R20         N35257 N21353  10k TC=0,0 
R_R21         N34756 0  10k TC=0,0 
R_R22         N34738 N34756  10k TC=0,0 
R_R24         AIN1N N21353  1k TC=0,0 
R_R23         AIN1P N34738  1k TC=0,0 
C_C6         AIN1N AIN1P  10nF  TC=0,0 
X_U7         N16628 N47022 VCC VEE N47022 OPAX333
